US08609647B2
(6) Optically-Active Compound of 3-benzyloxycarbonylamino-3-(1,1-difluoro-allyl)-piperidine-1-carboxylic acid tert-butyl ester
To a solution of an optically-active compound of 3-(1,1-difluoro-allyl)-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester (12.3 g) and triethylamine (11.2 ml) in toluene (123 ml) heated to 100° C. was added dropwise diphenylphosphoryl azide (11.2 ml). The reaction mixture was stirred at 100° C. for 25 minutes, and then thereto were added benzyl alcohol (6.2 ml) and 4-dimethylaminopyridine (0.98 g). The mixture was stirred at 100° C. overnight, and then cooled to room temperature and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=9/1 to 85/15) to give the titled compound (15.1 g).

reactant | 3-(1,1-difluoro-allyl)-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester | 12.3 g | C(C)(C)(C)OC(=O)N1CC(CCC1)(C(=O)O)C(C=C)(F)F | C14H21F2NO4
reactant | triethylamine | 11.2 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 11.2 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | 6.2 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 123 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | 0.98 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-benzyloxycarbonylamino-3-(1,1-difluoro-allyl)-piperidine-1-carboxylic acid tert-butyl ester | 15.1 g | C(C)(C)(C)OC(=O)N1CC(CCC1)(C(C=C)(F)F)NC(=O)OCC1=CC=CC=C1 | C21H28F2N2O4
